US07329662B2
7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-3-pyridin-4-yl-pyrazolo[1,5-a]pyrimidine
Reaction of 4,4-difluoro-1-(3-methyl-4-trifluoromethyl-phenyl)-butane-1,3-dione (140 mg, 0.5 mmol), prepared from 3-methyl-4-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(4-pyridinyl)-pyrazole [CAS No. 216661-87-9; prepared from 4-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (140 mg, 69%). MS (ISP) 405.4 [(M+H)+]; mp 236° C.

reactant | 4,4-difluoro-1-(3-methyl-4-trifluoromethyl-phenyl)-butane-1,3-dione | 0.5 mmol, 140 mg | FC(C(CC(=O)C1=CC(=C(C=C1)C(F)(F)F)C)=O)F | C12H9F5O2
reactant | 3-amino-4-(4-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C1=CC=NC=C1 | C8H8N4
product | 7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-3-pyridin-4-yl-pyrazolo[1,5-a]pyrimidine | 140 mg, 69% | FC(C1=CC(=NC=2N1N=CC2C2=CC=NC=C2)C2=CC(=C(C=C2)C(F)(F)F)C)F | C20H13F5N4
